US07358268B2
(ii) 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-imidazole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide
To a solution of 5-(5-Chloro-thiophen-2-yl)-3-imidazol-1-ylmethyl-isoxazole (85 mg) and NEt3 (89 μL) in DCM (3 mL) was added trichloroacetyl chloride (43 μL) dropwise at 0° C. The mixture was stirred for 5 min at 0° C. and for 30 min at RT. More NEt3 (133 μL) and 1-isopropyl-piperidin-4-ylamine dihydrochloride (88 mg) were added and stirring was continued for 2 h at RT. The mixture was concentrated and the residue was purified by preparative HPLC. The fractions containing the product were evaporated to provide 67 mg of the title compound as its trifluoroacetate salt. MS (ESI+): mi/e=434, chloro pattern.

reactant | 5-(5-Chloro-thiophen-2-yl)-3-imidazol-1-ylmethyl-isoxazole | 85 mg | ClC1=CC=C(S1)C1=CC(=NO1)CN1C=NC=C1 | C11H8ClN3OS
reactant | NEt3 | 89 μL | CCN(CC)CC | C6H15N
reactant | trichloroacetyl chloride | 43 μL | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | NEt3 | 133 μL | CCN(CC)CC | C6H15N
reactant | 1-isopropyl-piperidin-4-ylamine dihydrochloride | 88 mg | Cl.Cl.C(C)(C)N1CCC(CC1)N
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-imidazole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide | 67 mg | C(C)(C)N1CCC(CC1)NC(=O)C=1N(C=CN1)CC1=NOC(=C1)C=1SC(=CC1)Cl | C20H24ClN5O2S
